US08536209B2
5-(3-Fluoro-phenyl)-oxazole-4-carboxylic acid [2-(5-acetyl-thiophen-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide
Following general procedure A followed by B, starting from 2-[5-(2-methyl-[1,3]dioxolan-2-yl)-thiophen-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and 5-(3-fluoro-phenyl)-oxazole-4-carboxylic acid.

reactant | 2-[5-(2-methyl-[1,3]dioxolan-2-yl)-thiophen-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | CC1(OCCO1)C1=CC=C(S1)CN1N=CC(=N1)N | C11H14N4O2S
reactant | 5-(3-fluoro-phenyl)-oxazole-4-carboxylic acid | FC=1C=C(C=CC1)C1=C(N=CO1)C(=O)O | C10H6FNO3
product | 5-(3-Fluoro-phenyl)-oxazole-4-carboxylic acid [2-(5-acetyl-thiophen-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide | C(C)(=O)C1=CC=C(S1)CN1N=CC(=N1)NC(=O)C=1N=COC1C1=CC(=CC=C1)F | C19H14FN5O3S
